US05283294
A Kraton™ 1102 (20/60/20 styrene/butadiene/styrene) cement was prepared by dissolving 25 g of the polymer pellets in 600 ml of hexane in a quart (0.946 liter) bottle. 250 ml of 1,3-butadiene monomer premix (16% in hexane) was then added to the above cement followed by the addition of 12.5 ml of 25% triisobutylaluminum (in hexane), 0.5 ml of 0.42M cobalt octanoate, and 0.75 ml of 10% carbon disulfide. The mixture was then shaken at room temperature for 18 hours. The resulting mixture was then coagulated in a methanol solution. The resulting polymer (47 g) contained 42% SPBD, had a melting point of -206° C. and a glass transition temperature at -94° C.

reactant | 1,3-butadiene | 250 ml | C=CC=C | C4H6
reactant | triisobutylaluminum | 12.5 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | carbon disulfide | 0.75 ml | C(=S)=S | CS2
reactant | methanol | CO | CH4O
solvent | hexane | 600 ml | CCCCCC | C6H14
catalyst | cobalt octanoate | 0.42M, 0.5 ml | C(CCCCCCC)(=O)[O-].[Co+2].C(CCCCCCC)(=O)[O-]
product | styrene/butadiene styrene | C=CC1=CC=CC=C1.C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/2C8H8.C4H6/c2*1-2-8-6-4-3-5-7-8;1-3-4-2/h2*2-7H,1H2;3-4H,1-2H2
